US03992440
The starting material is prepared as follows: The solution of 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid if 50 ml of water containing 0.4 g of sodium hydroxide is adjusted to pH = 7.4 by the addition of 4N aqueous sodium hydroxide, whereupon 1.3 g of benzylchlorideare added while stirring under nitrogen. As soon as the pH remains constantthe mixture is filtered and the filtrate acidified with glacial acetic acidto a pH of 4-5. The precipitate formed is recrystallized from 50% aqueous ethanol, to yield the 4-(4-acetamidophenylmercapto)-3-benzylamino-5-sulfamoylbenzoic acid melting at 255°-258°.

reactant | 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)N | C15H15N3O5S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | 50 ml, 0.4 g | O | H2O
product | 4-(4-acetamidophenylmercapto)-3-benzylamino-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CC=C1 | C22H21N3O5S2
